* Z:\home\jodh\piezo_matlab\spice\peh.asc
V1 N002 0 SINE(0 {Veq} {f} 0 0 0 0)
R1 N011 N007 {Req}
L1 N002 N007 {Leq}
C1 N019 N011 {Ceq}
C2 N019 0 {Cp}
D1 N019 N022 {Diode}
Q1 N022 N024 N031 0 {npn}
D2 N025 N024 {Diode}
D4 N029 N028 {Diode}
Q2 N025 N019 N026 0 {pnp}
Q3 N028 N019 N027 0 {npn}
L2 N031 0 {Li} Rser={Rsw}
C3 N026 0 {C1/2}
L3 N030 0 {Li} Rser={Rsw}
Q4 N023 N029 N030 0 {pnp}
D3 N023 N019 {Diode}
D5 N019 N020 {Diode}
D6 0 N020 {Diode}
D7 N021 N019 {Diode}
D8 N021 0 {Diode}
C4 N020 N021 {Crect}
R4 N020 N021 {Rload}
C14 N017 0 {C1/2}
Q5 N012 N003 N017 0 {pnp}
Q6 N008 N013 N018 0 {npn}
L5 N018 0 {Li} Rser={Rsw}
Q7 N009 N014 N018 0 {pnp}
Q8 N015 N003 N016 0 {npn}
C15 N016 0 {C1/2}
D19 N003 N004 {Diode}
D20 0 N004 {Diode}
D21 N005 N003 {Diode}
D22 N005 0 {Diode}
C16 N004 N005 {Crect}
R9 N004 N005 {Rload}
V3 N001 0 SINE(0 {Veq} {f} 0 0 0 0)
R7 N010 N006 {Req}
L4 N001 N006 {Leq}
C12 N003 N010 {Ceq}
C13 N003 0 {Cp}
D13 N003 N017 {Diode}
D31 N012 N013 {Diode}
D32 N003 N008 {Diode}
D33 N009 N003 {Diode}
D34 N014 N015 {Diode}
D35 N016 N003 {Diode}
C40 N027 0 {C1/2}
D14 N038 N041 {Diode}
Q9 N041 N046 N063 0 {npn}
D15 N047 N046 {Diode}
D16 N050 N049 {Diode}
Q10 N047 N038 N048 0 {pnp}
Q11 N049 N038 N048 0 {npn}
L6 N063 0 {Li} Rser={Rsw}
L7 N062 0 {Li} Rser={Rsw}
Q12 N042 N050 N062 0 {pnp}
D17 N042 N038 {Diode}
D18 N038 N039 {Diode}
D23 0 N039 {Diode}
D24 N040 N038 {Diode}
D25 N040 0 {Diode}
C6 N039 N040 {Crect}
R2 N039 N040 {Rload}
C7 N048 0 {C1}
V2 N043 0 SINE(0 {Veq} {f} 0 0 0 0)
R3 N045 N044 {Req}
L8 N043 N044 {Leq}
C8 N038 N045 {Ceq}
C9 N038 0 {Cp}
D26 N027 N019 {Diode}
D27 N019 N026 {Diode}
R55 N035 N034 {Req}
L52 N033 N034 {Leq}
C101 N036 N035 {Ceq}
C102 N036 0 {Cp}
V47 N033 0 SINE(0 {Veq} {f} 0 0 0 0)
L53 N036 0 {Lp} Rser={Rp}
L54 N037 0 {Ls} Rser={Rs}
R57 N082 N081 {Req}
L55 N080 N081 {Leq}
C104 N074 N082 {Ceq}
C105 N074 0 {Cp}
V48 N080 0 SINE(0 {Veq} {f} 0 0 0 0)
C106 N032 N051 1e-6
R58 N032 N051 {Rsec}
R59 N097 N096 {Req}
L56 N095 N096 {Leq}
C107 N088 N097 {Ceq}
C108 N088 0 {Cp}
D125 0 N091 {Diode}
D126 N098 N091 {Diode}
D127 N100 N098 {Diode}
D128 N100 0 {Diode}
C109 N091 N100 {Crect}
R60 N091 N100 {Rload}
L57 N088 0 100
L58 N089 0 100
V49 N095 0 SINE(0 {Veq} {f} 0 0 0 0)
L59 N090 0 100
L60 N098 0 1000
R61 N090 N089 0.01
R62 N067 N066 {Req_eqS}
L61 N065 N066 {Leq_eqS}
C110 N068 N067 {Ceq_eqS}
C111 N068 0 {Cp_eqS}
D129 0 N064 {Diode}
D130 N068 N064 {Diode}
D131 N071 N068 {Diode}
D132 N071 0 {Diode}
V50 N065 0 SINE(0 {Veq_eqS} {f} 0 0 0 0)
C112 N064 N071 {Crect}
R63 N064 N071 {Rsec}
R64 N078 N077 {Req_eqP}
L50 N076 N077 {Leq_eqP}
C113 N079 N078 {Ceq_eqP}
C114 N079 0 {Cp_eqP}
D133 0 N073 {Diode}
D134 N072 N073 {Diode}
D135 N085 N072 {Diode}
D136 N085 0 {Diode}
V51 N076 0 SINE(0 {Veq_eqP} {f} 0 0 0 0)
C115 N073 N085 {Crect}
R65 N073 N085 {Rload}
L51 N079 0 25
L62 N072 0 1
R68 N094 N093 {Req_eqP}
L66 N092 N093 {Leq_eqP}
C119 N086 N094 {Ceq_eqP}
C120 N086 0 {Cp_eqP}
D141 0 N087 {Diode}
D142 N086 N087 {Diode}
D143 N099 N086 {Diode}
D144 N099 0 {Diode}
V53 N092 0 SINE(0 {Veq_eqP} {f} 0 0 0 0)
C121 N087 N099 {Crect}
R69 N087 N099 {Rload}
L67 N074 0 43
R5 N105 N104 {Req}
L9 N103 N104 {Leq}
C5 0 N105 {Ceq}
C10 0 N111 {Cp}
D9 N111 N101 {Diode}
D10 0 N101 {Diode}
D11 N112 0 {Diode}
D12 N112 N111 {Diode}
V4 N103 N111 SINE(0 {Veq} {f} 0 0 {ph} 0)
C11 N101 N112 {Crect}
R6 N101 N112 {Rload}
R8 N116 N115 {Req}
L10 N114 N115 {Leq}
C17 N111 N116 {Ceq}
C18 N111 0 {Cp}
V5 N114 0 SINE(0 {Veq} {f} 0 0 0 0)
R10 N108 N107 {Req}
L11 N106 N107 {Leq}
C19 N109 N108 {Ceq}
C20 N109 N110 {Cp}
D28 0 N102 {Diode}
D29 N110 N102 {Diode}
D30 N113 N110 {Diode}
D36 N113 0 {Diode}
V6 N106 N110 SINE(0 {Veq} {f} 0 0 {ph} 0)
C21 N102 N113 {Crect}
R11 N102 N113 {Rload}
R12 N119 N118 {Req}
L12 N117 N118 {Leq}
C22 N109 N119 {Ceq}
C23 N109 0 {Cp}
V7 N117 0 SINE(0 {Veq} {f} 0 0 0 0)
R13 N147 N146 {Req}
L13 N145 N146 {Leq}
C24 N148 N147 {Ceq}
C25 N148 0 {Cp}
D37 0 N140 {Diode}
D38 N148 N140 {Diode}
D39 N150 N148 {Diode}
D40 N150 0 {Diode}
V8 N145 0 SINE(0 {Veq} {f} 0 0 0 0)
C26 N140 N159 {Crect}
R14 N140 N159 {Rload}
R15 N124 N123 {Req}
L14 N122 N123 {Leq}
C27 N125 N124 {Ceq}
C28 N125 N130 {Cp}
D41 0 N120 {Diode}
D42 N125 N120 {Diode}
D43 N131 N125 {Diode}
D44 N131 0 {Diode}
V9 N122 N130 SINE(0 {Veq} {f} 0 0 0 0)
C29 N120 N131 {Crect}
R16 N120 N131 {Rload}
R17 N135 N134 {Req}
L15 N133 N134 {Leq}
C30 N130 N135 {Ceq}
C31 N130 0 {Cp}
V10 N133 0 SINE(0 {Veq} {f} 0 0 0 0)
R18 N128 N127 {Req}
L16 N126 N127 {Leq}
C32 N129 N128 {Ceq}
C33 N129 0 {Cp}
D45 0 N121 {Diode}
D46 N129 N121 {Diode}
D47 N132 N129 {Diode}
D48 N132 0 {Diode}
V11 N126 0 SINE(0 {Veq} {f} 0 0 0 0)
C34 N121 N132 {Crect}
R19 N121 N132 {Rload}
R20 N138 N137 {Req}
L17 N136 N137 {Leq}
C35 N129 N138 {Ceq}
C36 N129 0 {Cp}
V12 N136 0 SINE(0 {Veq} {f} 0 0 0 0)
R21 N157 N156 {Req}
L18 N155 N156 {Leq}
C37 N158 N157 {Ceq}
C38 N158 0 {Cp}
D49 0 N150 {Diode}
D50 N158 N150 {Diode}
D51 N159 N158 {Diode}
D52 N159 0 {Diode}
V13 N155 0 SINE(0 {Veq} {f} 0 0 0 0)
R22 N143 N142 {Req}
L19 N141 N142 {Leq}
C39 N144 N143 {Ceq}
C41 N144 0 {Cp}
D53 0 N139 {Diode}
D54 N144 N139 {Diode}
D55 N149 N144 {Diode}
D56 N149 0 {Diode}
V14 N141 0 SINE(0 {Veq} {f} 0 0 0 0)
C42 N139 N149 {Crect}
R23 N139 N149 {Rload}
R24 N153 N152 {Req}
L20 N151 N152 {Leq}
C43 N154 N153 {Ceq}
C44 N154 0 {Cp}
D57 0 N139 {Diode}
D58 N154 N139 {Diode}
D59 N149 N154 {Diode}
D60 N149 0 {Diode}
V15 N151 0 SINE(0 {Veq} {f} 0 0 0 0)
M1 0 0 N075 N075 {nmos}
M2 0 0 N084 N084 {nmos}
M3 N083 N083 N075 N075 {pmos}
M4 N083 N083 N084 N084 {pmos}
D61 0 N032 {Diode2}
D62 N037 N032 {Diode2}
D63 N051 N037 {Diode2}
D64 N051 0 {Diode2}
R25 N054 N053 {Req}
L21 N052 N053 {Leq}
C45 N055 N054 {Ceq}
C46 N055 0 {Cp}
V16 N052 0 SINE(0 {Veq} {f} 0 0 0 0)
L22 N055 0 {Lp}
R26 N059 N058 {Req}
L23 N057 N058 {Leq}
C47 N060 N059 {Ceq}
C48 N060 0 {Cp}
V17 N057 0 SINE(0 {Veq} {f} 0 0 0 0)
L24 N060 0 {Lp*2} Rser={Rp}
L25 N061 N070 {Ls/2} Rser={Rs}
C49 N056 N069 1e-6
R27 N056 N069 {Rsec}
D65 0 N056 {Diode2}
D66 N061 N056 {Diode2}
D67 N069 N061 {Diode2}
D68 N069 0 {Diode2}
L26 N060 0 {Lp*2} Rser={Rp}
L27 N070 0 {Ls/2} Rser={Rs}
.model D D
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 5.025 5 100u uic
.param Rload=5.994843e+04
.param Crect=1uF
.param Rsw= 84
.param C1=1.9800e-08
.param Li=0.0470
* .step param C1 list 1n 10n 20n 45n\n.step param Li list 0.047 0.1 0.5 0.01 1\n.step dec param Rload 0.1k 100meg 3
* *Use old model\n.param Leq = 6.797433e+01\n.param Req = 5.196815e+08\n.param Ceq = 5.791988e-07\n.param Veq = 7.973054e+05\n.param f = 42\n.param Cp = 3.364591e-07
* *Use new model\n.param Leq = 2.953846e-08\n.param Req = 6.191716e-01\n.param Ceq = 2.112500e-07\n.param Veq = 2.752084e+01\n.param f = 42\n.param Cp = 1.252091e-07
* .include component_sweep.lib
.model 1 ako:TIP31C
.model 2 ako:TIP32C
.model 3 ako:BAV199HY
.model 4 ako:BSS4130A
.model 5 ako:BSS5130A
.model 6 ako:MBR0520L
.model 7 ako:BAT54
.model 8 ako:BAS40-06HY
.model 9 ako:BAV199UM
.model 10 ako:RB168VAM-60
.model 11 ako:BAT54AHY
.model 12 ako:CMDSH-4E
.model 13 ako:UPSC600
.model 14 ako:MBRS130L
.param npn = 4
.param pnp = 5
.param Diode = 3
.param Diode2 = 6
.include equiv_model.lib
.include other_models.lib
* .include large_sweep.lib
* .include lowpow_sweep.lib
* .include combine_sweep.lib
* .model 1 ako:BSS4130A\n.model 2 ako:BSS5130A\n.model 3 ako:MBR0520L\n \n.param npn = 1\n.param pnp = 2\n.param Diode = 3
.include tlv3691.lib
K5 L57 L58 1
K6 L59 L60 1
K7 L51 L62 1
.param ph = 90
*.param Lp=42.7
.param n_turns=0.5
.param Rref=11.3k
.param k=0.9999
.param Ls = {Lp*n_turns*n_turns}
* 96/ 311.283
K15 L53 L54 {k}
* .param Rsec={Rref*n*n}
.param Rsec=1e6
.param Rp=1
.param Rs=0
.param L_series1 = 1/((2*pi*f)**2 * Cp)
.param L_series2 = 1/((2*pi*f)**2 * (Cp + Ceq))
.param Lp={if(modelSel==1,L_series2,L_series1)}
*.param Lp=43.5
* .step param Lp list 15 20 35 40 42.7 45 50 75 100 115 150 250\n.step param n_turns list 0.1 0.5 1 1.5 2 2.7 3 4 5 7.5 10\n.step dec param Rsec 0.1k 1000meg 3\n \n* .step param Rref list 4.7k 8.2k 11.3k 15k 22k
* .model 1 ako:BAV199HY\n.model 2 ako:GSD2004W-V\n.model 3 ako:UMN20N\n.model 4 ako:1N914\n.model 5 ako:RF05VAM1S\n.model 6 ako:RF101LAM4S\n.model 7 ako:RB168VAM-60\n.model 8 ako:MBR0520L\n.model 9 ako:BAT54\n.model 10 ako:BAS40-06HY\n.model 11 ako:BAV199UM\n.model 12 ako:UPSC600\n \n*.step param Diode2 list 1 2 3 4 5 6 7 8 9 10 11 12\n.step param n_turns list 0.1 0.5 1 1.5 2 2.7 3 4 5 7.5 10\n*.step dec param Rsec 0.1k 1000meg 3
* ============================================
* NMOS CANDIDATES: 1-8
* ============================================
.model 1 ako:Si1555DL_N
.model 2 ako:RUC002N05
.model 3 ako:RJU002N06
.model 4 ako:RJU003N03
.model 5 ako:QS6K1
.model 6 ako:IRLML6346
.model 7 ako:RJK005N03
.model 8 ako:2N7002
* ============================================
* PMOS CANDIDATES: 11-18
* ============================================
.model 11 ako:Si1555DL_P
.model 12 ako:Si1013
.model 13 ako:Si9400DY
.model 14 ako:FDS4953
.model 15 ako:FDS9933A
.model 16 ako:Si4433DY
.model 17 ako:Si5515_P
.model 18 ako:AO6407
.param nmos=8
.param pmos=12
*.step param nmos list 1 2 3 4 5 6 7 8
*.step param pmos list 11 12 13 14 15 16 17 18
* ; Define AKO model aliases mapped to numbers 1-7\n.model 1 ako: MBR0520L\n.model 2 ako: BAT54\n.model 3 ako: CMDSH-4E\n.model 4 ako: BAT54HY\n.model 5 ako: RB520CM-30\n.model 6 ako: RB706UM-40\n.model 7 ako: RB715WM\n \n; Parameter step directives\n.step param Diode2 list 1 2 3 4 5 6 7\n.step param n_turns list 0.25 0.33 0.4 0.5 0.6 0.75 1 1.5 2 3
*.include transformer_sweep.lib
*.include transformer_sweep1.lib
K16 L24 L25 {k}
K17 L26 L27 {k}
.options reltol=1e-5
.options abstol=1e-15
.options vntol=1e-9
.backanno
.end
